US03953595
2-Methylthio-5-trifluoromethylbenzoic Acid
In a similar manner are prepared: 2-(2-hydroxyethylthio)-5-trifluoromethylbenzoic acid, m.p. 153°-154° C.; 2-crotylthio-5-trifluoromethylbenzoic acid, m.p. 139°-141° C.; 2-methallythio-5-trifluoromethylbenzoic acid, m.p. 150°-152° C. and 2-allythio-5-trifluoromethylbenzoic acid, m.p. 178°-190° C.

reactant | 2-(2-hydroxyethylthio)-5-trifluoromethylbenzoic acid | OCCSC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C10H9F3O3S
reactant | 2-crotylthio-5-trifluoromethylbenzoic acid | C(C=CC)SC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C12H11F3O2S
product | 2-Methylthio-5-trifluoromethylbenzoic Acid | CSC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C9H7F3O2S
